US07179934B2
To a solution containing 2.0 g (13.9 mmol) of (2R,3R)-2,3-dimethyl-hexanoic acid in 20 mL of dichloromethane was added 2.1 g (16.6 mmol) of chloromethylene dimethyl-ammonium chloride. After stirring the resulting solution under nitrogen for 1.5 hours, the solvent was evaporated to give (2R,3R)-2,3-dimethyl-hexanoyl chloride. Butyl lithium (32.7 ml, 52.4 mmol) was added to a solution of diisopropylamine (4.9 g, 48.5 mmol) in dry THF (20 mL) under nitrogen at 0° C. and stirred for 20 minutes. The solution was cooled to −78° C. and 4.3 g (48.5 mmol) of ethyl acetate was added. The solution was stirred at that temperature for 45 minutes. (2R,3R)-2,3-Dimethyl-hexanoyl chloride in dry THF (20 mL) was slowly added to the ethyl acetate enolate at −78° C. and the resulting reaction mixture was allowed to warm to room temperature. The reaction mixture was stirred at room temperature for 2.5 hours and was cooled to 0° C. The reaction was quenched with a saturated solution of ammonium chloride and extracted into ethyl acetate. The solution was washed with brine, dried over MgSO4 and concentrated. The resulting residue was filtered through a silica plug, eluting with 60/40 solution of hexane/ethyl acetate to afford 2.7 g (89.2% yield) of the titled compound as an oil.

reactant | (2R,3R)-2,3-dimethyl-hexanoic acid | 13.9 mmol, 2.0 g | C[C@@H](C(=O)O)[C@@H](CCC)C | C8H16O2
reactant | chloromethylene dimethyl-ammonium chloride | 16.6 mmol, 2.1 g | [Cl-].ClC=[N+](C)C
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (2R,3R)-2,3-dimethyl-hexanoyl chloride | C[C@@H](C(=O)Cl)[C@@H](CCC)C | C8H15ClO
